US04857539
To a solution of 6.8 g furan in 100 ml dry ether at 0° C. under nitrogen was added 10.5 ml 9.5M n-butyllithium. The reaction mixture was heated at reflux for 15 min., then cooled to -30° C. and 19.9 g trimethyltin chloride was added. The reaction mixture was allowed to warm to room temperature and then poured into water. The ether layer was separated, washed with water and passed through an alumina column, eluting with hexane. Removal of the solvent provided 22.2 g (96%) 2-(trimethylstannyl)furan as a pale-yellow liquid.

reactant | furan | 6.8 g | O1C=CC=C1 | C4H4O
reactant | n-butyllithium | 9.5M, 10.5 ml | C(CCC)[Li]
reactant | trimethyltin chloride | 19.9 g | C[Sn](C)(C)Cl
reactant | water | O | H2O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 2-(trimethylstannyl)furan | 22.2 g, 96% | C[Sn](C=1OC=CC1)(C)C | InChI=1S/C4H3O.3CH3.Sn/c1-2-4-5-3-1;;;;/h1-3H;3*1H3;
